US08252755B2
Preparation of Cholanic Acid 4-Nitrophenyl Ester
Cholanic acid (3.6 g, 10.0 mmoles) is suspended in methylene chloride (200 mL) and stirred well at ambient temperature. 4-Nitrophenol (1.4 g, 10.1 mmoles) and N,N′-dicylcohexylcarbodiimide (2.1 g, 10.2 mmoles) are added, and the mixture is stirred overnight. The mixture is then filtered, the solid washed with a little methylene chloride, and the filtrate is evaporated to dryness to give a yellow solid. The crude product is dissolved in ethyl acetate (100 mL). The solution is filtered and the filtrate si evaporated to give an off-white solid. The solid is crystallized from hot hexanes. The yield is 3.9 g (80%).

reactant | Cholanic acid | 10.0 mmoles, 3.6 g | C(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4CCCC[C@]4(C)[C@H]3CC[C@]12C)(=O)O | C24H40O2
reactant | 4-Nitrophenol | 10.1 mmoles, 1.4 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | N,N′-dicylcohexylcarbodiimide | 10.2 mmoles, 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Cholanic Acid 4-Nitrophenyl Ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4CCCC[C@]4(C)[C@H]3CC[C@]12C)=O | C30H43NO4
